US08236954B2
1-[(3-Bromo-4-nitrophenyl)methyl]-4-methylpiperazine
N-methyl piperazine (0.95 mL, 8.56 mmol) was added dropwise to a suspension of 3-bromo-4-nitrobenzaldehyde (0.985 g, 4.28 mmol) and acetic acid (0.29 mL, 5.14 mmol) in toluene (5.5 mL) at room temperature. The reaction mixture was stirred for 1 h at room temperature before the addition of sodium triacetoxyborohydride (1.36 g, 6.42 mmol). The reaction mixture was stirred for 2 h. Further toluene (2.1 mL) and sodium triacetoxyborohydride (0.18 g, 0.86 mmol) was added and the reaction mixture was stirred for 2 hours and then quenched by the addition of MeOH (0.99 mL). The reaction mixture was stirred for 30 min, saturated aqueous NaHCO3 (6.01 mL) was then added and the reaction mixture was stirred overnight. The phases were separated and the aqueous layer was extracted with toluene (4.0 mL). The combined organic extracts were concentrated under reduced pressure and purified by flash column chromatography (EtOAc:MeOH:NEt3 9:1:0.1) to give the title compound (1.18 g, 88%) as a low melting point waxy brown solid.

reactant | N-methyl piperazine | 8.56 mmol, 0.95 mL | CN1CCNCC1 | C5H12N2
reactant | 3-bromo-4-nitrobenzaldehyde | 4.28 mmol, 0.985 g | BrC=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H4BrNO3
reactant | acetic acid | 5.14 mmol, 0.29 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 6.42 mmol, 1.36 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 0.86 mmol, 0.18 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | toluene | 5.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2.1 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[(3-Bromo-4-nitrophenyl)methyl]-4-methylpiperazine | 1.18 g, 88% | BrC=1C=C(C=CC1[N+](=O)[O-])CN1CCN(CC1)C | C12H16BrN3O2
